US05677305
First, 4.849 g of 4-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine and 2.402 g of oxalic acid were added to 60 ml of 4N hydrochloric acid. The mixture was refluxed by heating for 2.5 hours in a nitrogen atmosphere. After the mixture was cooled, precipitated crystals were filtered and recrystallized with dimethylformamide to give 4.786 g of 6-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 4-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 4.849 g | O=C1C=CN(C=C1)C1=CC(=C(C=C1)N)N | C11H11N3O
reactant | oxalic acid | 2.402 g | C(C(=O)O)(=O)O | C2H2O4
solvent | hydrochloric acid | 4N, 60 ml | Cl | ClH
product | 6-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 4.786 g | O=C1C=CN(C=C1)C=1C=C2NC(C(NC2=CC1)=O)=O | C13H9N3O3
